US05817849
Preparation of 2-(cyclopentadienyl)-2,2-dimethyl-1,1-diphenylethane
Potassium diphenylmethanide (5.72 g, 27.8 mmols) in about 50 mL of THF was slowly added to 6,6-dimethylfulvene (2.94 g, 27.8 mmols) in about 100 mL of THF at about 25 C. The reaction mixture was stirred at about 25° C. for about 16 hours. The solvent was removed under reduced pressure to give the desired product as a sticky, oily solid.

reactant | Potassium diphenylmethanide | 27.8 mmols, 5.72 g | C1(=CC=CC=C1)[CH-]C1=CC=CC=C1.[K+]
reactant | 6,6-dimethylfulvene | 27.8 mmols, 2.94 g | CC(=C1C=CC=C1)C | C8H10
solvent | THF | about 50 mL | C1CCOC1 | C4H8O
solvent | THF | about 100 mL | C1CCOC1 | C4H8O
product | 2-(cyclopentadienyl)-2,2-dimethyl-1,1-diphenylethane | C1(C=CC=C1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C21H22
